US05098919
N,N-Dimethyl-(7-isopropoxycarbonyl-2,3,5,6-tetrahydropyrrolo-[2,1-b]thiazol-3-ylidene)acetamide
1.0 g of S-phenyl (7-isopropoxycarbonyl-2,3,5,6-tetrahydropyrrolo[2,1-b]thiazol-3-ylidene)thioacetate was suspended in 10 ml of a 40% aqueous solution of dimethylamine and stirred at room temperature for 1 hour. After distilling off the excessive dimethylamine, the obtained crude crystals were recrystallized from isopropyl alcohol. Thus 0.7 g of the title compound was obtained as crystals.

reactant | S-phenyl (7-isopropoxycarbonyl-2,3,5,6-tetrahydropyrrolo[2,1-b]thiazol-3-ylidene)thioacetate | 1.0 g | C(C)(C)OC(=O)C=1CCN2C1SCC2=CC(=O)SC2=CC=CC=C2 | C18H19NO3S2
reactant | dimethylamine | CNC | C2H7N
product | N,N-Dimethyl-(7-isopropoxycarbonyl-2,3,5,6-tetrahydropyrrolo-[2,1-b]thiazol-3-ylidene)acetamide | 0.7 g | CN(C(C=C1N2C(SC1)=C(CC2)C(=O)OC(C)C)=O)C | C14H20N2O3S
